* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 4.7k
R5 N003 0 4.7
V1 N001 0 15
R4 N002 N004 2.7
R1 N004 N003 10
R3 N004 0 2.2

.end